US05834463
(3aR*,10aS*)-4-(Bromoacetyl)-9-(4-nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one
Using (3aR*,10aS*)-9-(4-nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one and bromoacetyl bromide, the titled compound was synthesized in substantially the same manner as in Working Example 185 in a yield of 37%, m.p. 160.5°-161.5° C. (ethyl acetate-hexane).

reactant | (3aR*,10aS*)-9-(4-nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one | [N+](=O)([O-])C1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C19H19N3O3
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (3aR*,10aS*)-4-(Bromoacetyl)-9-(4-nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one | yield of 37% | BrCC(=O)N1C2=C(N(C([C@@H]3[C@H]1CCC3)=O)CC3=CC=C(C=C3)[N+](=O)[O-])C=CC=C2 | C21H20BrN3O4
